US07816522B2
After adding 940 mg of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 1.125 g of 5-fluoro-8-methoxychromane-6-carbaldehyde, 1 g of MS3A and 1.43 ml of trimethylsilyl cyanide to a solution of 330 mg of Yb(OTf)3 in 20 ml of THF under a nitrogen atmosphere, the mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the celite was washed with ethyl acetate. The organic layer was concentrated under reduced pressure to give (5-fluoro-8-methoxychroman-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile (crude product).

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 940 mg | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 5-fluoro-8-methoxychromane-6-carbaldehyde | 1.125 g | FC1=C2CCCOC2=C(C=C1C=O)OC | C11H11FO3
reactant | trimethylsilyl cyanide | 1.43 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 330 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (5-fluoro-8-methoxychroman-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | FC1=C2CCCOC2=C(C=C1C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C)OC | C21H19FN4O3
